US07951828B1
Step 2: Production of N-acetyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-(1-pyrazolyl)benzoic acid amide
In a solution of 0.20 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl-N-(1-pyrazolyl)benzoic acid amide in 3 mL of tetrahydrofuran, 0.027 g of 60% oily sodium hydride was added and stirred at room temperature for 10 minutes. After ceasing the generation of hydrogen gas, 0.049 g of acetyl chloride was added under cooling with ice and with stirring, and continued to stir at the same temperature further for 10 minutes. After the completion of the reaction, the reaction mixture was poured in 10 mL of ice water, extracted with ethyl acetate (10 mL×1), the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (2:3) to obtain 0.058 g of the aimed product as yellow resinous substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl-N-(1-pyrazolyl)benzoic acid amide | 0.20 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NN2N=CC=C2)C=C1)C)C(F)(F)F | C21H15Cl2F3N4O2
reactant | sodium hydride | 0.027 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetyl chloride | 0.049 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-acetyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-(1-pyrazolyl)benzoic acid amide | 0.058 g | C(C)(=O)N(C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)N1N=CC=C1 | C23H17Cl2F3N4O3
